US05624943
A solution of 495 mg of 3-{6-iodo-3-[6-(4-methoxyphenyl-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester and 397 mg of ethoxyvinyltributyltin in 2 ml of toluene is mixed with 30 mg of bis-triphenylphosphine-palladium(II) chloride and heated for six hours with stirring to 110° C. The reaction mixture is filtered on diatomaceous earth, the filter residue is washed with diethyl ether, the filtrate is mixed with 1.5 ml of 2n hydrochloric acid and stirred for 4 hours at room temperature. The organic phase is separated, dried with sodium sulfate and concentrated by evaporation. 95 mg of 3-{6-acetyl-3-[6-(4-methoxyphenyl-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester is obtained as oil.

reactant | 6-iodo-3-[6-(4-methoxyphenyl-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester | 495 mg | COC(CCC=1NC(C=CC1)(OCCCC\C=C\C1=CC=C(C=C1)OC)I)=O | C22H28INO4
reactant | ethoxyvinyltributyltin | 397 mg | C(C)OC=C[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 6-acetyl-3-[6-(4-methoxyphenyl-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester | 95 mg | COC(CCC=1NC(C=CC1)(OCCCC\C=C\C1=CC=C(C=C1)OC)C(C)=O)=O | C24H31NO5
